US07320979B2
13.1 3-Methyl-1-(5-nitropyridin-2-yl)piperazine
872 mg (6.31 mmol) of potassium carbonate were added to a solution of 500 mg (3.15 mmol) of 2-chloro-5-nitropyridine in 7 ml of dimethylformamide. After that, a solution of 350 mg (3.32 mmol) of 2-methylpiperazine in 3 ml of dimethylformamide was slowly added dropwise to the reaction mixture while cooling with ice (exothermic reaction). The reaction mixture was stirred for 1 hour while cooling with ice and then stirred overnight at room temperature. After the solvent had been evaporated to dryness, the residue was taken up in water and this mixture was extracted three times with diethyl ether. The combined organic phases were dried over sodium sulfate, filtered and evaporated to dryness, with 3-methyl-1-(5-nitropyridin-2-yl)piperazine (Yield: 650 mg, 89% of theory) being obtained.

reactant | potassium carbonate | 6.31 mmol, 872 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-nitropyridine | 3.15 mmol, 500 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 2-methylpiperazine | 3.32 mmol, 350 mg | CC1NCCNC1 | C5H12N2
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 3-Methyl-1-(5-nitropyridin-2-yl)piperazine | CC1CN(CCN1)C1=NC=C(C=C1)[N+](=O)[O-] | C10H14N4O2
